US06071670
Adamantyl methacrylate (AMM), tert-butyl methacrylate (t-BM) and methacrylic acid (MA) were mixed together with tetrahydrofuran (THF) thereby to obtain a mixed solution, to which 10 mol. % of azoisobutyronitrile (AIBN) was added as an initiator. Then, the resultant mixture was allowed to undergo a reaction for 40 hours to obtain a copolymer (AMM-t-BM-MA; 35:40:25) having a molecular weight of 10,000.

reactant | Adamantyl methacrylate | C(C(=C)C)(=O)OC12CC3CC(CC(C1)C3)C2 | C14H20O2
reactant | tert-butyl methacrylate | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | AMM t-BM MA | C(C(=C)C)(=O)OC12CC3CC(CC(C1)C3)C2.C(C(=C)C)(=O)OC(C)(C)C.C(C(=C)C)(=O)O | InChI=1S/C14H20O2.C8H14O2.C4H6O2/c1-9(2)13(15)16-14-6-10-3-11(7-14)5-12(4-10)8-14;1-6(2)7(9)10-8(3,4)5;1-3(2)4(5)6/h10-12H,1,3-8H2,2H3;1H2,2-5H3;1H2,2H3,(H,5,6)
